US07329662B2
2-(4-Chloro-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-(4-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (251 mg, 1.0 mmol), prepared from commercially available 4-chloro-acetophenone according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (124 mg, 38%). MS (ISP) 323.1 [(M+H)+]; mp 205° C.

reactant | 1-(4-chloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 251 mg | ClC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C10H6ClF3O2
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-(4-Chloro-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 124 mg, 38% | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N | C14H6ClF3N4
